Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.26091983351
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.427957252540001
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-1.64766460808
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]1>>[H:1][C:2](=[C:3]=[O:4])[O:11][C:8]([C:5]([H:6])[H:7])([H:9])[H:10],0.0881518458608999
[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.415955021409999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],5.626889269319999
[C:1]#[C:2][O:3][C:4]([H:5])[O:7][H:8].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8],-3.39209573958
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.09352866395
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C@@:8]1([H:9])[C:10][O:11]1>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[O:11],-2.63889432483
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13],-0.27341224246
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][O:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:10][O:11].[H:9],4.7495764093
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.84918053213
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],0.606921322391
[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.39374206839
[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4][O:5][C:6][H:7]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-8.44742036788
[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9],0.5847484439289999
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.54056834773
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3],3.49937448737
[H:3].[O:1]=[O:2]>>[O:1][O:2][H:3],-2.2451695052700003
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6],1.64620357398
[H:1][O:2][C:3]([H:4])=[C:5]=[C:8]([H:9])[H:10].[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])[H:10],-3.29067332676
[H:1].[O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-3.6628243818
[H:1][C:2][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.30447951088
[C:1][C:2][O:3].[C:4]#[C:5][H:6]>>[C:1]#[C:2][O:3][C:4]#[C:5][H:6],-1.89371459026
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:8](\[H:9])[O:10][H:11].[H:7],2.09575324443
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15].[H:6],1.7948455797999998
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],4.7428266937300005
[H:1][O:2][C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.39062915897
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]([H:10])[H:11].[H:8],1.86500598813
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9][H:10],-3.72879266092
